US03957805
Preparation of 4-(5-Cyclopropyl-2-isoxazolin-3-yl)pyridine
To a stirred mixture containing 3.8 g. of isonicotinoyl chloride, oxime hydrochloride and 1.4 g. of vinylcyclopropane in 100 ml. of ethanol is added dropwise over a 1 hour period, a solution 4.1 g. of triethylamine in 40 ml. of ethanol. The reaction is stirred for 1 hour and then the solvent is removed under reduced pressure. The residue is extracted with ether and the ether solution is dried over sodium sulfate. The solution is filtered and then the solvent is removed giving a yellow solid. The solid is recrystallized from ethanol giving white crystals, melting point 102°-108°C.

reactant | isonicotinoyl chloride | C(C1=CC=NC=C1)(=O)Cl | C6H4ClNO
reactant | vinylcyclopropane | C(=C)C1CC1 | C5H8
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | ethanol | C(C)O | C2H6O
product | 4-(5-Cyclopropyl-2-isoxazolin-3-yl)pyridine | C1(CC1)C1CC(=NO1)C1=CC=NC=C1 | C11H12N2O
